Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
dyspnea 
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with a PMH of stage IIB
HR+/HER2- breast cancer (undergoing neoadjuvant ddACT, C1D29
___, migraines, and HTN, who presents with chest
pain, found to have subsegmental pulmonary embolism. She has 
been
experiencing two days of intermittent left-sided chest pressure,
which has been lasting for several minutes, with occasional
episodes of sharp left-sided chest pain, which has been more
brief, lasting seconds. The pain was intermittent, 
non-pleuritic,
and occurred at both exertion and rest. One day prior to
admission, she developed non-productive cough and dyspnea, as
well as an episode of lightheadedness while walking her dog. She
presented to ___-___, where her initial VS were T 98.7F, P
___, BP 132/91 mmHg RR< O2 100% RA. Labs were notable for Cr 
0.7,
HCT 35.9%, troponin T of 0.06, and CKMB of 2.5. A CTA
demonstrated R-sided subsegmental pulmonary embolism. She was
initiated on heparin infusion. She was transferred to ___ for
further management. 

On arrival to ___, her initial VS were T 98.2F, P ___, BP
120/79 mmHg RR 17 O2 98% RA. Bedside echo in the ED demonstrated
no pericardial effusion, tachycardia, normal LV function and no
evident RV dilation. ECG demonstrated sinus tachycardia, rate
103, with S1Q3T3 pattern. Lower extremity ultrasound showed no
DVT. Labs were notable for normal chemistries, WBC 4.3k, Hb 10.9
g/dL, PLT ___, PTT 150, troponin 0.07x2, MB 2, proBNP 65. A
MASCOT consultation was called, who advised that, given the
presence of small sub-segmental PE with current stability and
low-risk features, her case was not of sufficient complexity to
warrant activation of the multidisciplinary team. It was
recommended that she receive boluses of IV fluid targeted to
resolution of tachycardia, aspirin 81 mg daily, trending
troponin/CKMB q6h, and continuation of heparin gtt, with plan to
transition to DOAC if acceptable from an oncology standpoint. 
Her
case was discussed with the oncology fellow on call, and she was
deemed safe for admission to medicine. 

Upon arrival to the floor, she reported that she felt well and
that she had not had chest pain or shortness of breath since
yesterday afternoon. She denied fevers or chills, although she
did endorse a mild cough. She denied abdominal pain, nausea,
vomiting, numbness, tingling, rash, dysuria, or hematuria. 
 
Past Medical History:
- stage IIB HR+/HER2- breast CA (diagnosed ___, invasive
ductal carcinoma, grade 2, FNA of axillary lymph node positive,
undergoing neoadjuvant dose-dense ACT, C1D29 ___
- pre-diabetes
- migraine headaches
- cold-induced asthma
- prolapse s/p partial hysterectomy (___)
 
Social History:
___
Family History:
Has ___ female first cousin that had breast cancer
at age ___, another first cousin that had ovarian cancer at age
___, her grandmother had ovarian cancer, father with lung and
prostate cancer, and an aunt who died in her ___ from unknown
metastatic cancer.
 
Physical Exam:
ON ADMISSION: 
VS: T 97.5F BP 111/72 mmHg P ___ RR 18 O2 97% RA
General: Comfortable, NAD. 
HEENT: Anicteric sclerae, alopecia of scalp. MMM, OP clear.
Neck: Supple; no JVD.
CV: Tachycardic, regular, no MRGs; normal S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended, NABS.
Ext: Warm and well-perfused. No edema. 2+ DP pulses.
Neuro: A&Ox3. 

ON DISCHARGE: 
VS:  98.5 ___ 20 97RA
GENERAL: NAD, alert, interactive  
HEENT: Sclerae anicteric, MMM, PERRLA, EOMI 
LUNGS: Clear to auscultation bilaterally, no w/r/r  
HEART: Regular rhythm w/ tachycardia, clear S1&S2
ABDOMEN: NABS, soft/NT/ND.  
EXTREMITIES: Warm, well-perfused. No edema, no swelling or
tenderness on lower extremities. 2+ DP pulses. 
NEURO: A&Ox3, CNII-XII grossly intact.
 
Pertinent Results:
ON ADMISSION: 
___ 04:10PM BLOOD WBC-4.3 RBC-3.20* Hgb-10.9* Hct-31.3* 
MCV-98 MCH-34.1* MCHC-34.8 RDW-14.8 RDWSD-53.1* Plt ___
___ 04:10PM BLOOD ___ PTT-150* ___
___ 04:10PM BLOOD Glucose-98 UreaN-8 Creat-0.6 Na-140 K-4.1 
Cl-105 HCO3-23 AnGap-12
___ 04:10PM BLOOD CK(CPK)-50
___ 04:10PM BLOOD cTropnT-0.07*
___ 12:40AM BLOOD cTropnT-0.07*

INTERIM LABS: 
___ 04:35AM BLOOD CK-MB-2 cTropnT-0.07*
___ 01:20PM BLOOD CK-MB-2 cTropnT-0.07*

DISCHARGE LABS: 
___ 04:35AM BLOOD WBC-3.9* RBC-3.01* Hgb-10.2* Hct-29.8* 
MCV-99* MCH-33.9* MCHC-34.2 RDW-15.0 RDWSD-54.4* Plt ___
___ 09:25AM BLOOD ___ PTT-59.9* ___
___ 04:35AM BLOOD Glucose-99 UreaN-12 Creat-0.7 Na-140 
K-3.9 Cl-104 HCO3-24 AnGap-12
___ 01:20PM BLOOD CK-MB-2 cTropnT-0.07*

TTE ___: 
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. The 
pulmonary artery systolic pressure could not be determined. 
There is a trivial/physiologic pericardial effusion. 

IMPRESSION: Normal right ventricular cavity size and systolic 
function. Mild symmetric left ventricular hypertrophy with 
normal cavity size, and regional/global systolic function. 

BILATERAL US OF LOWER EXTREMITIES
no evidence of DVT
 
Brief Hospital Course:
___ h/o stage IIB breast cancer (HR+/Her2-) on neoaduvant 
chemotherapy, HTN, migraines, presenting with dyspnea and chest 
pain found to have R-sided submassive subsegmental PE at 
___, transferred on heparin drip for management.

#Submassive subsegmental PE (r-sided)
Two-day h/o of dyspnea and chest tightness, intermittently on 
exertion and at rest, w/ occasional sharp pangs of chest pain. 
Found to have submassive subsegmental PE at ___ on CTA. 
Troponin elevated to 0.07, stable when repeated. Normal proBNP. 
Patient was transitioned from heparin gtt to lovenox ___ mg Q24H 
per weight-based dosing as was recommended by her oncologist . 
She was monitored on telemetry and noted to have ambulatory 
heart rates into the 110-120s without exertional symptoms which 
improved over the course of hospitalization. 

# STAGE IIB BREAST CANCER, HR+/HER2-. Currently undergoing 
ddACT, with C1D29 paclitaxel on ___, next date of 
chemotherapy ___. 

CHRONIC ISSUES
# MIGRAINE: continued verapamil 120 mg q24h.

Transitional issues: 
[] patient will be discharged with script for lovenox ___ mg 
Q24H, instructed on use of medication prior to discharge, 
discuss duration of treatment with oncologist 
[] discharged on 81 mg ASA for primary prevention 

>30 minutes spent on discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil SR 120 mg PO Q24H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Enoxaparin Sodium 130 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 150 mg/mL 130 mg SC Q24H Disp #*30 Syringe 
Refills:*0 
3.  Verapamil SR 120 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism 
Stage IIB breast cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ 
because you were found to have a small blood clot in your lung 
called a "pulmonary embolism." You had a cardiac ultrasound and 
blood tests to make sure that this blood clot was not affecting 
your heart. You will need to continue to take a blood thinner 
called Lovenox or enoxaparin every day for now, for at least six 
months and possibly longer. Please discuss how long you should 
take this medication for with Dr. ___.

It was a pleasure taking care of you and we wish you the best! 

Sincerely, 
Your ___ team 
 
Followup Instructions:
___